US05723499
Preparation of 7-(1-adamantyl)-6-tert-butyldimethylsilyloxy-2-bromonaphthalene
11.9 g (33.3 mmol) of 7-(1-adamantyl)-6-hydroxy-2-bromonaphthalene, 120 ml of DMF, 5.1 ml (36.6 mmol) of triethylamine and 203 mg of 4-dimethylaminopyridine were introduced successively into a three-necked flask. A solution of 5.52 g (36.6 mmol) of tert-butyldimethylsilyl chloride was added dropwise and the mixture was stirred at room temperature for 12 hours. The reaction medium was poured into water, extracted with ethyl ether, the organic phase decanted, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column eluted with heptane; 12 g (76%) of 7-(1-adamantyl)-6-tert-butyldimethylsilyloxy-2-bromonaphthalene of melting point 120°-121° C. were recovered.

reactant | 7-(1-adamantyl)-6-hydroxy-2-bromonaphthalene | 33.3 mmol, 11.9 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)Br)O | C20H21BrO
reactant | DMF | 120 ml | CN(C)C=O | C3H7NO
reactant | triethylamine | 36.6 mmol, 5.1 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 36.6 mmol, 5.52 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | 4-dimethylaminopyridine | 203 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 7-(1-adamantyl)-6-tert-butyldimethylsilyloxy-2-bromonaphthalene | C12(CC3CC(CC(C1)C3)C2)C2=C(C=C3C=CC(=CC3=C2)Br)O[Si](C)(C)C(C)(C)C | C26H35BrOSi
